US05179125
[1]Preparation of ethyl 3-[(2-acetylthiomethyl-3phenylpropionyl)amino]benzoate
2-Acetylthiomethyl-3-phenylpropionic acid (11.9 g) and ethyl 3-aminobenzoate (8.26 g) are dissolved in dichloromethane (150 ml), and thereto are added 4-dimethylaminopyridine (0.61 g) and EDC·HCl (10.54 g), and the mixture is stirred at room temperature overnight. The reaction mixture is washed with saturated aqueous citric acid solution, saturated aqueous sodium chloride solution and saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution in this order, dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is washed with diethyl ether to give the title compound (13 g).

reactant | 2-Acetylthiomethyl-3-phenylpropionic acid | 11.9 g | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
reactant | ethyl 3-aminobenzoate | 8.26 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | EDC·HCl | 10.54 g | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl 3-[(2-acetylthiomethyl-3phenylpropionyl)amino]benzoate | 13 g | C(C)(=O)SCC(C(=O)NC=1C=C(C(=O)OCC)C=CC1)CC1=CC=CC=C1 | C21H23NO4S
